US07101880B2
A mixture of 2-benzyloxycarbonylamino-3-(2,6-difluorophenyl)acrylic acid methyl ester (14.4 mmol), and catalyst, (+)-1,2-bis-[(2S,5S)2,5-diethylphopholano]benzene (cyclooctadiene)rhodium (1) trifluoromethanesulfonate (Strem. Chemical No. 45-0151; 104 mg, 0.14 mmol) was dissolved in ethanol (150 mL). Hydrogenation was performed at 50 psi H2 at room temperature over 2 days. The solvent was then removed by rotary evaporation to give 2(S)-benzyloxycarbonylamino-3-(2,6-difluorophenyl)propionic acid methyl ester.

reactant | 2-benzyloxycarbonylamino-3-(2,6-difluorophenyl)acrylic acid methyl ester | 14.4 mmol | COC(C(=CC1=C(C=CC=C1F)F)NC(=O)OCC1=CC=CC=C1)=O | C18H15F2NO4
solvent | ethanol | 150 mL | C(C)O | C2H6O
product | 2(S)-benzyloxycarbonylamino-3-(2,6-difluorophenyl)propionic acid methyl ester | COC([C@H](CC1=C(C=CC=C1F)F)NC(=O)OCC1=CC=CC=C1)=O | C18H17F2NO4
